US04929741
44.6 ml of n-butyllithium solution (1.6M in hexane) were added to a solution of 10.0 g (71.3 mmol) of 3-[(tetrahydro-2H-pyran-2-yl)oxy]1-propyne in 150 ml of absolute tetrahydrofuran at -78° . The reaction mixture was stirred at -40° for 30 minutes and then treated with 14.0 g (71.3 mmol) of 3,4,5-trimethoxybenzaldehyde in 50 ml of tetrahydrofuran. The reaction mixture was subsequently stirred at 0° for 1 hour and then treated with 100 ml of saturated ammonium chloride solution and 200 ml of ether. The aqueous phase was extracted twice with ether, whereupon the combined organic phases were dried over magnesium sulphate and the solvent was distilled off. The residue was dissolved in 150 ml of methylene chloride and added dropwise at 0° to a suspension of 186 g of manganese dioxide in 300 ml of methylene chloride. The reaction mixture was stirred at room temperature for 30 minutes, filtered over magnesium sulphate and evaporated. The residue was dissolved in 300 ml of tetrahydrofuran/ethanol (1:1) and treated with 2.4 g of pyridinium p-toluenesulphonate. The mixture was stirred at room temperature for 24 hours, 100 ml of water and 200 ml of ether were then added, the aqueous phase was extracted twice with ether, the combined organic phases were dried over magnesium sulphate and the solvent was distilled off. Crystallization from ethyl acetate/hexane yielded 4-hydroxy 1-(3,4,5 -trimethoxyphenyl)-2-butyn- 1-one of melting point 104°-105°.

reactant | n-butyllithium | 1.6M, 44.6 ml | C(CCC)[Li]
reactant | 3-[(tetrahydro-2H-pyran-2-yl)oxy]1-propyne | 71.3 mmol, 10.0 g | O1C(CCCC1)OCC#C | C8H12O2
reactant | 3,4,5-trimethoxybenzaldehyde | 71.3 mmol, 14.0 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-hydroxy 1-(3,4,5 -trimethoxyphenyl)-2-butyn- 1-one | OCC#CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C13H14O5
